US07015218B1
N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-iodophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-iodophenyl)-5-methylpyrazole-4-carboxylic acid (1.2 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (1 g), the title compound (1.0 g) was obtained, melting point: 280° C.

reactant | 1-(4-iodophenyl)-5-methylpyrazole-4-carboxylic acid | 1.2 g | IC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9IN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 1 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[3-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-iodophenyl)-5-methylpyrazole-4-carboxamide | 1.0 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)I | C27H29IN6O2
